US05760067
26.9 ml (63 mmol) of n-butyllithium in hexane are added at -30° C., with stirring under and a nitrogen atmosphere, to a mixture of 6.76 g (30 mmol) of 4-(1-chlorocyclopropyl)4-hydroxy-5-(1,2,4-triazol-1-yl)-1-pentine and 60 ml of absolute tetrahydrofuran. After the end of the addition, stirring is continued at 0° C. for 15 minutes, and then a solution of 4.68 g (33 mmol) of methyl iodide in 30 ml of absolute tetrahydrofuran is added dropwise. Stirring is then continued for an hour at 20° C. The reaction mixture is worked up by diluting with ethyl acetate and subjecting it several times to extraction by shaking with saturated aqueous ammonium chloride solution. The organic phase is dried over sodium sulphate and filtered and the filtrate is concentrated under reduced pressure. This gives 7.2 g of a product which consists to the extent of67.6% of 5-(1-chlorocyclopropyl)-5-hydroxy-6-(1,2,4triazol-1-yl-2-hexine. For purification, the product is chromatographed on silica gel using ethyl acetate. 4.8 g (67% of theory) of 5-(1-chlorocyclopropyl)-5-hydroxy-6-(1,2,4-triazol-1-yl)-2-hexine are obtained in the form of an oil.

reactant | n-butyllithium | 63 mmol, 26.9 ml | C(CCC)[Li]
reactant | 4-(1-chlorocyclopropyl)4-hydroxy-5-(1,2,4-triazol-1-yl)-1-pentine | 30 mmol, 6.76 g | ClC1(CC1)C(CC#C)(CN1N=CN=C1)O | C10H12ClN3O
reactant | methyl iodide | 33 mmol, 4.68 g | CI | CH3I
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-(1-chlorocyclopropyl)-5-hydroxy-6-(1,2,4-triazol-1-yl)-2-hexine | 4.8 g, 67% | ClC1(CC1)C(CC#CC)(CN1N=CN=C1)O | C11H14ClN3O
